US07220856B2
Preparation of 7-Chloro-4-[4-(ethoxyimino(4-fluorophenylamino)methyl)piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (124 mg, 0.5 mmol), N-ethoxy-N′-(4-fluorophenyl)thiourea (105 mg, 0.49 mmol), and sodium periodate (118 mg, 0.55 mmol) in DMF-water 1:1 (20 mL) are heated at 85° C. for 1 h. The reaction mixture is diluted with water and extracted with ether. The organic phase is dried (MgSO4) and concentrated. The residue is purified by column chromatography with hexane-EtOAc yielding the title product as pale yellow crystals.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 0.5 mmol, 124 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | N-ethoxy-N′-(4-fluorophenyl)thiourea | 0.49 mmol, 105 mg | C(C)ONC(=S)NC1=CC=C(C=C1)F | C9H11FN2OS
reactant | sodium periodate | 0.55 mmol, 118 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | DMF water | 20 mL | CN(C)C=O.O
solvent | water | O | H2O
product | 7-Chloro-4-[4-(ethoxyimino(4-fluorophenylamino)methyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(NC1=CC=C(C=C1)F)=NOCC | C22H23ClFN5O
